US05420285
Synthesis of 2-(BOC-Hydrazino)-5-Amino-Pyridine
Into a Parr hydrogenation bottle was added 2-BOC-hydrazino-5-nitropyridine (1 equivalent), 1(7% palladium on charcoal (0.3 gm Pd/gm of pyridine) and ethanol (100 ml/gm of pyridine). The reaction was hydrogenated at 50 psi H2 for 2 hours at room temperature on a Parr hydrogenator. The reaction mixture was filtered through a filter cell plug and rinsed with ethanol. The yellow green solution was concentrated under reduced pressure to give a pale yellow solid. The product was recrystallized from ethanol; yield 81.64%; m.p. 140°-142°. IR (KBr): 3360, 3200, 2980, 1650, 1635, 1580, 1490, 1390, 1360, 1300, 1260, 1160, 1020, 880, 860, 830, 750, 590, 530 cm-1.

reactant | 2-BOC-hydrazino-5-nitropyridine | 1 equivalent | C(=O)(OC(C)(C)C)NNC1=NC=C(C=C1)[N+](=O)[O-] | C10H14N4O4
catalyst | palladium on charcoal | 0.3 gm | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-(BOC-Hydrazino)-5-Amino-Pyridine | yield 81.64% | C(=O)(OC(C)(C)C)NNC1=NC=C(C=C1)N | C10H16N4O2
